US06960614B2
To a mixture of 4-fluoro-2-(4-iodo-2-methyl-phenylamino)benzoic acid (3.32 g, 8.95 mmol) in dichloromethane at ambient temperature was added diisopropylethylamine (2.82 mL, 16.2 mmol). To the resultant solution was added O-[3-(tert-butyl-dimethyl-silanyloxy)-propyl]-hydroxylamine (2.19 g, 10.65 mmol) and PyBOP. After 1.5 h of stirring, the solution was diluted with ether (100 mL) and was washed with water (3×50 mL) and brine (50 mL), dried over magnesium sulfate and filtered, and concentrated in vacuo to obtain a gum. Chromatographed the gum using a gradient of 100% hexanes to 30% ethyl acetate in hexanes over 45 min. The solvent of the combined fractions was removed in vacuo to obtain a yellow gum. The gum was dried on a vacuum pump for c. a. 18 h which afforded N-[3-(tert -Butyl-dimethyl-silanyloxy)-propoxy]-4-fluoro-2-(4-iodo-2-methyl-phenylamino)-benzamide as a solid. (4.06 g, 81% yield). 1H-NMR (400 MHz, CDCl3) δ 9.3 (br. s., 1H), 9.0 (br. s., 1H), 7.58 (s, 1H), 7.49 (dd, 1H, J=8.3, 1.95 Hz)), 7.36 (br. t., 1H,=5.71 Hz), 7.05 (d, 1H, J=8.3 Hz), 6.65 (dd, 1H, J=11.96, 2.44 Hz), 6.4 (br. t., J=7.1 Hz), 4.14 (t, 2H, J=5.61 Hz), 3.812 (t, 2H, J=5.62 Hz), 2.28 (s, 3H), 1.94 (p, 2H, J=5.86 Hz), 0.9 (s, 9H), 0.08 (s, 6H). 19F-NMR (376 MHz, CDCl3) δ −105.25. MS (AP+) 559.2 m/z, (AP−) 557.1 m/z.

reactant | 4-fluoro-2-(4-iodo-2-methyl-phenylamino)benzoic acid | 8.95 mmol, 3.32 g | FC1=CC(=C(C(=O)O)C=C1)NC1=C(C=C(C=C1)I)C | C14H11FINO2
reactant | diisopropylethylamine | 16.2 mmol, 2.82 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | O-[3-(tert-butyl-dimethyl-silanyloxy)-propyl]-hydroxylamine | 10.65 mmol, 2.19 g | C(C)(C)(C)[Si](OCCCON)(C)C | C9H23NO2Si
reactant | PyBOP | C1CCN(C1)[P+](N2CCCC2)(N3CCCC3)ON4C5=C(C=CC=C5)N=N4.F[P-](F)(F)(F)(F)F
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | ether | 100 mL | CCOCC | C4H10O
product | N-[3-(tert -Butyl-dimethyl-silanyloxy)-propoxy]-4-fluoro-2-(4-iodo-2-methyl-phenylamino)-benzamide | 81% yield | C(C)(C)(C)[Si](OCCCONC(C1=C(C=C(C=C1)F)NC1=C(C=C(C=C1)I)C)=O)(C)C | C23H32FIN2O3Si
